US04544562
20.3 g (107 millimoles) of 6-(p-aminophenyl)-4,5-dihydro-3(2H)-pyridazinone were stirred with 14.7 g (0.12 mole) of 2-methoxypropionyl chloride and 400 ml of absolute acetone for 10 hours at room temperature. The product was filtered off under suction at 10° C., washed with cold acetone and dried at 70° C. under reduced pressure. 20.8 g (76%) of 6-[p-(2-methoxypropionylamino)-phenyl]4,5-dihydro-3(2H)-pyridazinone were obtained. Mp.: 245°-247° C.

reactant | 6-(p-aminophenyl)-4,5-dihydro-3(2H)-pyridazinone | 107 millimoles, 20.3 g | NC1=CC=C(C=C1)C=1CCC(NN1)=O | C10H11N3O
reactant | 2-methoxypropionyl chloride | 0.12 mole, 14.7 g | COC(C(=O)Cl)C | C4H7ClO2
solvent | acetone | 400 ml | CC(=O)C | C3H6O
product | 6-[p-(2-methoxypropionylamino)-phenyl]4,5-dihydro-3(2H)-pyridazinone | 20.8 g, 76% | COC(C(=O)NC1=CC=C(C=C1)C=1CCC(NN1)=O)C | C14H17N3O3
